US07759379B2
[5-(4,4-Dimethyl-2,5-dioxo-3-quinolin-4-ylmethyl-imidazolidin-1-yl)-2-methoxy-phenoxy]-acetaldehyde
410 mg 3-[3-(2,2-Diethoxy-ethoxy)-4-methoxy-phenyl]-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione were dissolved in 8 ml 1,4-dioxane and 2.05 ml of an aqueous 1 N solution of hydrochloric acid were added. The mixture was stirred for 2 hours at 80° C. Removal of the solvent under reduced pressure yielded a white solid, which was coevaporated twice with toluene. Yield: 340 mg

reactant | 3-[3-(2,2-Diethoxy-ethoxy)-4-methoxy-phenyl]-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | 410 mg | C(C)OC(COC=1C=C(C=CC1OC)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)OCC | C28H33N3O6
reactant | hydrochloric acid | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | [5-(4,4-Dimethyl-2,5-dioxo-3-quinolin-4-ylmethyl-imidazolidin-1-yl)-2-methoxy-phenoxy]-acetaldehyde | CC1(N(C(N(C1=O)C=1C=CC(=C(OCC=O)C1)OC)=O)CC1=CC=NC2=CC=CC=C12)C | C24H23N3O5
